.Subckt 0805_150080M173000 1 2 3 4 
D1 4 1 red
.MODEL red D
+ IS=10.000E-21
+ N=1.7663
+ RS=1.0000E-6
+ IKF=2.3424E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 4 2 green
.MODEL green D
+ IS=173.59E-12
+ N=3.9024
+ RS=.92591
+ IKF=155.84E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D3 4 3 Blue 
.MODEL Blue D
+ IS=3.9902E-3
+ N=3.3328
+ RS=.62026
+ IKF=56.277E-18
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
****************************
.Subckt 1210_150121M173000 1 2 3 4 
D1 4 1 red
.MODEL red D
+ IS=10.000E-21
+ N=1.7663
+ RS=1.0004E-6
+ IKF=2.3415E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 4 2 green
.MODEL green D
+ IS=3.9902E-3
+ N=3.3328
+ RS=.62026
+ IKF=56.277E-18
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D3 4 3 Blue 
.MODEL Blue D
+ IS=173.59E-12
+ N=3.9024
+ RS=.92591
+ IKF=155.84E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
****************************
.subckt 0606_150066M173000 1 2 3 4
D1 4 1 Red
.MODEL Red D
+ (IS=907.15E-15
+ N=3.1309
+ RS=1.4649
+ IKF=580.41
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 2 Green
.MODEL  Green D
+ (IS=37.663E-15
+ N=4.4886
+ RS=7.7892
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 4 3 Blue
.MODEL Blue D
+ (IS=902.06E-15
+ N=4.9225
+ RS=5.6760
+ IKF=6.0085E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
****************************
.Subckt 1206_150120M173000 1 2 3 4 
D1 4 1 red
.MODEL red D
+ IS=105.08E-15
+ N=4.2330
+ RS=5.6147
+ IKF=6.2901E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 4 2 Green
.MODEL Green D
+ IS=67.354E-12
+ N=5
+ RS=12.569
+ IKF=225.55E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D3 4 3 blue
.MODEL blue D
+ IS=19.992E-15
+ N=2.7747
+ RS=3.3107
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
****************************
.Subckt 1210dome_150121M186000 1 2 3 4 
D1 4 1 blue
.MODEL blue D
+ IS=3.8099E-12
+ N=3.6996
+ RS=5.6563
+ IKF=571.63E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 4 2 green
.model green d
+ IS=4.9618E-9
+ N=5
+ RS=8.0451
+ IKF=2.1971E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D3 4 3 red
.model red d
+ IS=69.357E-15
+ N=2.9208
+ RS=2.2677
+ IKF=228.08
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
****************************



























